US06495587B1
[A-1] 2-Iodo-4-chloro-6-nitrotoluene
Sodium iodate (158 g, 0.800 mol, 0.4 eq.) was added portionwise, under nitrogen atmosphere, to an ice-cooled mixture of 4-chloro-2-nitrotoluene (343 g, 2.00 mol), iodine (204 g, 0.800 mol, 0.4 eq.) and conc. sulfuric acid (1960 g, 20.0 mol, 10 eq.) and the resulting mixture was stirred at a temperature of 5° C. to 10° C. for 6 hours. Water (2 L) was added dropwise thereto with stirring in an ice-water bath, and the mixture was extracted with toluene (2.5 L). The combined organic layer was treated with aqueous 10% sodium thiosulfate solution, washed with water (1 L×2) and aqueous sat. sodium hydrogencarbonate solution (1 L×2) successively, dried over sodium sulfate and concentrated to give crude A-1 (548 g, purity 62%) as a yellow oil. This product was used in the following reaction without further purification.

reactant | Sodium iodate | 0.800 mol, 158 g, 0.4 eq. | I(=O)(=O)[O-].[Na+]
reactant | 4-chloro-2-nitrotoluene | 2.00 mol, 343 g | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | iodine | 0.800 mol, 204 g, 0.4 eq. | II | I2
reactant | sulfuric acid | 20.0 mol, 1960 g, 10 eq. | S(O)(O)(=O)=O | H2O4S
solvent | Water | 2 L | O | H2O
product | 2-Iodo-4-chloro-6-nitrotoluene | IC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])C | C7H5ClINO2
